US07326791B2
(d) 2-(5-chloro-1H-benzimidazol-2-yl)-N-[3-methyl-4-(pyrrolidin-1-ylcarbonyl)phenyl]acetamide
Prepared analogously to Example 1g from (5-chloro-1H-benzimidazol-2-yl)acetic acid, TBTU, N-methylmorpholine, and 4-amino-2-methylbenzoic acid pyrrolidine amide in N,N-dimethylformamide and subsequent chromatography on silica gel (gradient: dichloromethane/ethanol=100:0□25:1□19:1□19:1); Yield: 14 mg (7.1%); Rf value: 0.45 (silica gel; dichloromethane/ethanol=9:1); C21H21ClN4O2 (396.88); mass spectrum: (M−H)-=395/397 (chlorine isotope).

reactant | (5-chloro-1H-benzimidazol-2-yl)acetic acid | ClC1=CC2=C(NC(=N2)CC(=O)O)C=C1 | C9H7ClN2O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | chlorine | ClCl | Cl2
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(5-chloro-1H-benzimidazol-2-yl)-N-[3-methyl-4-(pyrrolidin-1-ylcarbonyl)phenyl]acetamide | ClC1=CC2=C(NC(=N2)CC(=O)NC2=CC(=C(C=C2)C(=O)N2CCCC2)C)C=C1 | C21H21ClN4O2
